US08703796B2
(377c) 1-(5-Bromo-6-methoxy-2-(methylamino)-pyridin-3-yl)-3-(2,6-dichloro-phenyl)-thiourea
5-Bromo-6-methoxy-N-methyl-3-nitropyridin-2-amine (0.5 g, 1.9 mmol) in THF was combined with Raney nickel (70 mg) and hydrogenated in a Parr apparatus at ambient temperature for 10 h at 3.5 bar hydrogen pressure. Then the mixture was directly filtered into a mixture of 1,3-dichloro-2-isothiocyanatobenzene (0.39 g, 1.9 mmol) in THF and stirred overnight at ambient temperature. The solvent was removed i. vac. and the residue was purified by HPLC (C18 Symmetry, 8 μm, eluent: H2O+0.15% HCOOH+15-100% acetonitrile).

reactant | 5-Bromo-6-methoxy-N-methyl-3-nitropyridin-2-amine | 1.9 mmol, 0.5 g | BrC=1C=C(C(=NC1OC)NC)[N+](=O)[O-] | C7H8BrN3O3
reactant | hydrogen | [H][H] | H2
reactant | 1,3-dichloro-2-isothiocyanatobenzene | 1.9 mmol, 0.39 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
solvent | THF | C1CCOC1 | C4H8O
catalyst | Raney nickel | 70 mg | [Ni] | Ni
product | 1-(5-Bromo-6-methoxy-2-(methylamino)-pyridin-3-yl)-3-(2,6-dichloro-phenyl)-thiourea | BrC=1C=C(C(=NC1OC)NC)NC(=S)NC1=C(C=CC=C1Cl)Cl | C14H13BrCl2N4OS
